Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
A ___ male with melanoma with brain metastases s/p Right 
Frontal-temporal Craniotomy for mass resection with partial 
temporal lobectomy and IL-2 treatment presented erythema and 
superficial ulcerations on his right upper arm for the past one 
week.  One week ago, he initially had erythema and hardness on 
his right upper arm.  However over the past ___ days, he also 
had noticed that there were a few blisters on the arm and the 
blisters broke and had "pus" like discharge.  He also had 
worsening pain on his right arm.    He denied fever, chill, 
worsening headache, dizziness.  He also reported that there was 
a blister in his left groin area that had already spontaneously 
opened and drained by itself ___ days ago. 

In ED, pt received one dose of vancomycin.

Review of Systems:  
(+) Per HPI  
(-) Review of Systems: GEN: No night sweats, recent weight loss 
or gain. HEENT: No sinus tenderness or congestion. CV: No chest 
pain or tightness, palpitations. PULM: No cough, shortness of 
breath, or wheezing. GI: No diarrhea, constipation or abdominal 
pain. No recent change in bowel habits, no hematochezia or 
melena. GUI: No dysuria or change in bladder habits. MSK:  No 
arthritis, arthralgias, or myalgias. DERM: No rashes or 
worstening skin breakdown. NEURO: No numbness/tingling in 
extremities. PSYCH: No feelings of depression or anxiety. All 
other review of systems negative.

 
Past Medical History:
Oncology history;
ONCOLOGIC HISTORY:
___ of 4.8mm thick ___ level IV melanoma from 
left
leg posteriorly.
-Wide local excision,neg lympadenopathy,no mets-->No adjuvant 
tr.
___ of new mass at right deltoid area-->melanoma
PET/CT: Increased uptake at right deltoid mass, right axilla and
right back.
Biopsies from axilla and back are neg.
___: Resection of 6.5cm SQ mass
___: Adjuvant interferon therapy 
___ CT: New 3cm soft tissue mass left side of abdomen
___ resection of jejunal mass with ___ lymph nodes
positive
___: Cycle #1 Week #1 of IL-2 therapy
___: IL-2 therapy stopped for presumed air embolus
___: CT Chest: Decrease in size of hepatic lesion. No new
areas of metastatic disease identified. 
___, head CT, no significant change, no evidence of
enhancing intraparenchymal or extraaxial lesion.  If there is a
strong clinical suspicion for intraparenchymal metastases, an 
MRI
with gadolinium is more sensitive for further characterization.
___, torso CT, previously seen hepatic lesion in segment 
VI
of liver is no longer identified, 1.9 x 1.6 omental nodule
increased in size from previous records (1.3 x 1.2).
___: Did not complete the second cycle of ___: abdominal metastatectomy at ___
___ MRI brain shows right temporal lesion
___ Frontal-temporal Craniotomy for mass resection 
with partial temporal lobectomy
___: MRI of head: Status post resection of right temporal 
lobe lesion. Expected post-surgical changes are identified. No 
acute infarcts or hydrocephalus. Subtle enhancement of the 
posterior margins of the surgical cavity noted. 

Other PMH:

1. Melanoma
2. Folliculitis
3. Migraine 
4. Seizure

PSH;
___: Right Frontal-temporal Craniotomy for mass resection 
with partial temporal lobectomy

 
Social History:
___
Family History:
No history of CAD, HTN, DM or cancer in mother, father or his 
one younger brother (his only sibling). No other history of 
cancer in the extended family.
 
Physical Exam:
VITAL SIGNS:  97.6 67 139/85 18 100% 
HEENT: Anicteric sclerae, MMM, oropharynx without erythema, oral
ulcerative lesions, or thrush. Neck supple without adenopathy. 
RESPIRATORY: B/L breath sounds were clear, no crackles and 
wheezes, Normal respiratory effort. 
HEART: RRR, normal S1,S2, no murmurs, rubs, or gallops. 
ABDOMEN: Soft, No tenderness, no rigidity or rebound, 
nondistended, +BS throughout, no hepatosplenomegaly appreciated. 

SKIN: There was one area (5X6 cm) with erythema and hardness on 
his right upper arm with tenderness.
EXTREMITIES: Without edema, warm and well perfused. 
NEURO EXAM: Grossly normal.

 
Pertinent Results:
___ 04:42PM   LACTATE-1.5
___ 04:20PM   GLUCOSE-97 UREA N-13 CREAT-0.8 SODIUM-140 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-31 ANION GAP-13
___ 04:20PM   WBC-17.1* RBC-3.74* HGB-11.1* HCT-33.0* 
MCV-88 MCH-29.8 MCHC-33.8 RDW-14.4
___ 04:20PM   NEUTS-88.2* LYMPHS-8.3* MONOS-2.9 EOS-0.4 
BASOS-0.2
___ 04:20PM   PLT COUNT-219
.
___ CT of head w/o contrast:IMPRESSION: No acute intracranial 
process. Post-surgical changes in the right temporal lobe with 
fluid adjacent to the craniotomy site. MRI is more sensitive to 
evaluate for possible infection. 
.
___ CXR: FINDINGS: PA and lateral views of the chest are 
obtained demonstrating clear lungs bilaterally and no signs of 
pneumonia or CHF. No pleural effusion or pneumothorax. 
Cardiomediastinal silhouette is normal. Bony structures are 
intact. No free air below the hemidiaphragm is seen. 

 
Brief Hospital Course:
Assessment/Plan: The patient is a MRSA colonized ___ 
male with metastatic melanoma s/p right parietal resection of 
brain met on ___ immunosuppressed on steroids admitted with 
right upper extremity cellulitis. 
.
#Cellulitis: He was treated with IV vancomycin for ~ 60 hours 
until blood cultures obtained on admission remained negative for 
48 hours. His cellulitis improved on vancomycin and the patient 
had no signs of systemic infection. After discussion with  Dr. 
___ was changed to doxycycline 100 mg BID for 10 days 
and with outpatient follow up in one week. Dr. ___ will 
follow up final blood cultures. Because the patient was observed 
to compulsively pick at his skin, including his open cellulitis 
wound, he was seen in consultation with the psychiatry service. 
The consult judgeed the patient safe for discharge and 
recommended considering liberalizing his use of ativan if it 
helped with the patient's low level anxiety. The recommendation 
was conveyed to the patient's primary oncologist and deferred to 
outpatient management. The patient was seen in consultation with 
the wound consult team whose recommendations were instituted for 
his multiple skin lesions. 
.
# Pain at site of cellulitis:
- continued oxycodone. 
.
#Leukocytosis: Resolved, Due to both cellulitis and 
demargination due to his ongoing steroids. Discharged on  
doxycycline 100 mg BID for 10 days 
.
#Anemia: normochromic, normocytic, slightly below his base line 
(36-39%). Remained stable and followed daily. 
.
# Melanoma: The patient was receiving no active systemic 
cytotoxic or biologic treatment currently as he was still 
recovering from his recent craniotomy. He was seen by neurosurg 
in the ER without findings of infection at his operative site.
- continued steroids
- continue dantiseizure meds
- discussed with Dr. ___ onc) and with Dr ___ 
___ onc)
.
FEN: oral
.
DVT PPx: ambulation and pneumoboots
.
Precautions for: MRSA
.
Lines: peripheral
.
CODE: FULL.

 
Medications on Admission:
1. oxycodone 30 mg Q 4hrs PRN pain
2. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
3. ranitidine HCl 150 mg Tablet Sig: 0.5 Tablet PO BID (2 times 
a day).
4.  dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q12H (every 

12 hours).

 
Discharge Medications:
1. dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
2. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
3. oxycodone 15 mg Tablet Sig: Two (2) Tablet PO Q4H (every 4 
hours) as needed for pain.  
4. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
5. doxycycline hyclate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day for 10 days.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Metastatic melanoma
Folliculitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a skin infection of your right upper arm 
that required IV antibiotics. Your infection has improved and 
blood cultures drawn at the time of your admission are negative 
so far. As a result, your antibiotics will be changed to 
medicine that you can take by mouth. You should take a full 10 
days of antibiotics after you go home. You should follow up the 
final results of your blood cultures with Dr. ___ you 
see him next week. It is important that you DO NOT pick or 
squeeze the infected areas on your skin. You should change the 
dressing on your right arm once a day  using the following 
steps:
 1. Commercial wound cleanser to irrigate/cleanse all open 
wounds.
 2. Pat the tissue dry with dry gauze.
 3. Cover with dry gauze
 4. Secure with tubular netting or kerlix
 5. Change dressing daily
.
You should dress the other lesions on your left upper arm and 
shoulder as follows:
 1. cleanse with normal saline or commercial clearner
 2. pat dry.  
 3. Apply Bactroban ointment dry gauze and secure with
tubular netting, change daily.
.
The following changes have been made to your medications:
START doxycyline 100 mg BID

 
Followup Instructions:
___